US04260755
3-(Trifluoromethyl)-6-(3-trifluoromethylphenyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 1.4 g of 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine and 3.0 g. of trifluoroacetic anhydride in 20 ml. of pyridine is refluxed for 16 hours. The mixture is concentrated under vacuum and the residue treated with aqueous sodium bicarbonate solution. The mixture is filtered and the solid dissolved in chloroform. The chloroform solution is dried over anhydrous sodium sulfate and hexane is added. Filtration gives 0.7 g. of the desired product as crystals, m.p. 189° C.

reactant | 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine | 1.4 g | N(N)C=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(Trifluoromethyl)-6-(3-trifluoromethylphenyl)-1,2,4-triazolo[4,3-b]pyridazine | FC(C1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F)(F)F | C13H6F6N4
